US04536402
(E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
1.18 gm (4.66 mmols) of (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one were dissolved in 50 ml of methanol and mixed with 0.9 gm (4.94 mmols) of N-bromo-succinimide. The mixture was stirred at room temperature for 15 hours, diluted with 500 ml of hot water (60° C.), and decanted off the residue which crystallized. After recrystallization from ethanol, 0.83 gm (66% of theory) of pale yellow crystals were obtained, m.p. 245°-247° C. (decomposition).

reactant | (E)-2-[(amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one | 4.66 mmols, 1.18 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NOS
reactant | N-bromo-succinimide | 4.94 mmols, 0.9 gm | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | (E)-2-[(Amino)phenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=CC=C2 | C15H11NO2S
